US07902181B2
b) (S)-2-(tert-Butoxycarbonylamino)-3-(4-(phenylsulfonyl)phenyl)propanoic Acid
To a stirred solution of (S)-methyl 2-(tert-butoxycarbonylamino)-3-(4-(phenylsulfonyl)phenyl)propanoate (700 mg) in THF (15 mL) and water (10 mL) was added lithium hydroxide monohydrate (140 mg). The mixture was stirred at RT for 2 h. The mixture was partitioned between 0.1 N HCl(aq) and ethyl acetate, and the aqueous phase was extracted twice more with ethyl acetate. The combined organic phases were dried over sodium sulphate, filtered and concentrated in vacuo to leave the subtitle compound (675 mg) as a white solid.

reactant | (S)-methyl 2-(tert-butoxycarbonylamino)-3-(4-(phenylsulfonyl)phenyl)propanoate | 700 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1 | C21H25NO6S
reactant | lithium hydroxide monohydrate | 140 mg | O.[OH-].[Li+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | (S)-2-(tert-Butoxycarbonylamino)-3-(4-(phenylsulfonyl)phenyl)propanoic Acid | 675 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1 | C20H23NO6S
